### PR TITLE
[Merged by Bors] - feat(RingTheory): support of quotient module

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
I personally think the increase in import is fine but if reviewers think otherwise I'm happy to split it.

**Review by alreadydone — COMMENTED** [review]
I've [golfed the proof](https://github.com/leanprover-community/mathlib4/commit/8a35ab2b85bb0c16d0a8707f99885509d68ca959) with some missing API. Feel free to merge but then we'll need to find another reviewer. Or maybe I can PR my part and you can review it :)

**Comment by erdOne** [comment]
@alreadydone 
Yeah it's hard to review on the commit diff. Maybe open a PR and I can make this one depend on the new PR?

**Comment by erdOne** [comment]
Yes and that is already merged.

File: Mathlib/RingTheory/Support.lean [hunk 1]
```diff
@@ -201,4 +211,35 @@ lemma LocalizedModule.exists_subsingleton_away [Module.Finite R M] (p : Ideal R)
...
+  · rintro p ⟨hp₁, hp₂⟩
+    rw [Module.mem_support_iff] at hp₁ ⊢
+    let Rₚ := Localization.AtPrime p.asIdeal
+    let Mₚ := LocalizedModule p.asIdeal.primeCompl M
+    set Mₚ' := LocalizedModule p.asIdeal.primeCompl (M ⧸ (I • ⊤ : Submodule R M))
+    let Mₚ'' := Mₚ ⧸ I.map (algebraMap R Rₚ) • (⊤ : Submodule Rₚ Mₚ)
+    let e : Mₚ' ≃ₗ[Rₚ] Mₚ'' := (localizedQuotientEquiv _ _).symm ≪≫ₗ
+      Submodule.quotEquivOfEq _ _ (by rw [Submodule.localized,
+        Submodule.localized'_smul, Ideal.localized'_eq_map, Submodule.localized'_top])
+    have : Module.Finite Rₚ Mₚ :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Support.lean:234]: Is it possible to have those as instances? `Module.Finite.of_isLocalizedModule` cannot be, but I think having the specific version is a good idea. Similarly to what I am doing in #21522.

**Comment by erdOne** [comment]
Thanks!
bors merge
